US03933826
0.8 g. of 10-hydroxy-2,3,11-trimethoxy-5,6,13,13a-tetrahydro-8H-dibenzo[a, g]quinolizine was dissolved in 8 ml of anhydrous pyridine. To the resulting solution 2 ml of acetic anhydride was added dropwise with stirring, while cooling in an ice-bath. After the mixture was stirred at room temperature for 5 hours, the excessive acetic anhydride was distilled off under reduced pressure, and the residue obtained was extracted with chloroform. The chloroform layer was washed with a 1N-sodium hydroxide solution and then with water, dried over potassium carbonate and evaporated to dryness. Recrystallization of the residue from ethanol-petroleum ether afforded 0.3 g. (33.3% yield) of 5,6,13,13a-tetrahydro-2,3,11-trimethoxy-10-acetoxy-8H-dibenzo [a,g]quinolizine as colorless needles having a melting point of 162° to 164°C.

reactant | 10-hydroxy-2,3,11-trimethoxy-5,6,13,13a-tetrahydro-8H-dibenzo[a, g]quinolizine | OC=1C(=CC2=C(CN3CCC4=C(C3C2)C=C(C(=C4)OC)OC)C1)OC | C20H23NO4
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 5,6,13,13a-tetrahydro-2,3,11-trimethoxy-10-acetoxy-8H-dibenzo [a,g]quinolizine | 33.3% yield | COC=1C(=CC2=C(C3CC4=C(CN3CC2)C=C(C(=C4)OC)OC(C)=O)C1)OC | C22H25NO5
